US09056874B2
7-Bromo-5-methyl-1-tosyl-4-((trimethylsilyl)ethynyl)-1H-indole
To a suspension of 7-bromo-4-iodo-5-methyl-1-tosyl-1H-indole (90 mg, 0.184 mmol), CuI (5.60 mg, 0.029 mmol) and Pd(PPh3)4 (16.9 mg, 0.015 mmol) in triethylamine (3 mL) was added trimethylsilylacetylene (0.036 mL, 0.257 mmol) and the mixture was stirred at room temperature. After 3 hours the reaction was purified directly by flash chromatography (0-40% EtOAc in heptanes) to provide the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.03 (d, J=3.79 Hz, 1H) 7.70 (d, J=8.34 Hz, 2H) 7.34-7.48 (m, 3H) 6.85 (d, J=3.79 Hz, 1H) 2.38 (s, 3H) 2.37 (s, 3H) 0.27-0.31 (m, 9H).

reactant | 7-bromo-4-iodo-5-methyl-1-tosyl-1H-indole | 0.184 mmol, 90 mg | BrC=1C=C(C(=C2C=CN(C12)S(=O)(=O)C1=CC=C(C)C=C1)I)C | C16H13BrINO2S
reactant | trimethylsilylacetylene | 0.257 mmol, 0.036 mL | C[Si](C)(C)C#C | C5H10Si
solvent | triethylamine | 3 mL | C(C)N(CC)CC | C6H15N
catalyst | CuI | 0.029 mmol, 5.60 mg | [Cu]I
catalyst | Pd(PPh3)4 | 0.015 mmol, 16.9 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-Bromo-5-methyl-1-tosyl-4-((trimethylsilyl)ethynyl)-1H-indole | BrC=1C=C(C(=C2C=CN(C12)S(=O)(=O)C1=CC=C(C)C=C1)C#C[Si](C)(C)C)C | C21H22BrNO2SSi
